Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])[H:7].[H:1][C:2](=[C:3][H:4])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],6.42386142727
[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-6.99976732256
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-1.10971840171
[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6][H:7].[O:1]=[C:2]([H:3])[O:4][C:5][C:8]([H:9])([H:10])[H:11],7.430013819289999
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9],1.61026711842
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13].[H:1][C:2]#[C:3][H:4],1.49030247438
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[O:9],0.58257753375
[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1][C:2]([H:3])([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.541856576419
[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[O:1][C:2]#[C:3][O:4],4.70553921366
[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],3.02461784523
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6],7.12854596242
[O:1]=[C:2][C:7]([C:3][O:4][C:5][H:6])([H:8])[H:9]>>[O:1]=[C:2]1[C:3]([O:4][C:5][H:6])[C:7]1([H:8])[H:9],-1.73441269337
[C:3]([H:4])([H:5])([C:6][H:7])[H:13].[H:1][C:2][C:8]([H:9])([C:10][H:11])[H:12]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-8.44580539115
[O:1]=[C:2]([H:3])[C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11]>>[C:2]([H:3])=[C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11].[O:1],6.06236014732
[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:8][C:9]([H:10])[H:11].[H:7]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11],-4.35894445856
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9][H:10],4.17141427917
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([O:4][C:5][H:6])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],3.99597055478
[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-7.78972310887
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.4054821515199999
[H:1][O:2]/[C:3](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.64529452307
[H:10].[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.54725072009
[H:1][C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],2.44821666529
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])#[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2],3.2563421474400003
[O:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-2.79061652858
[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.16604286531
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][H:9]>>[C:3]([H:4])=[C:5]([H:6])[O:7][O:8][H:9].[H:1][C:2],6.47595658399
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],3.2408623318400003
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.94204755169
